US06794404B2
To a solution of (R3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester (0.215 g, 1.15 mmol) in THF at 0° C., triphenylphosphine (0.316 g, 1.21 mmol), diisopropyl azodicarboxylate (236 μL, 1.21 mmol) and E-3-(4-hydroxy-phenyl)-acrylic acid methyl ester (0.215 g, 1.21 mmol) were added. The reaction mixture was stirred for 2 h at 0° C., followed by 4 h at room temperature and then the solvent was evaporated in vacuo. The residue was purified by flash column chromatography, using 20%-30% EtOAc in hexane, to give crude (S)-3-[4-(E)-2-methoxycarbonylvinyl)phenoxy]pyrrolidine-1-carboxylic acid tert-butyl ester as a yellow solid.

reactant | triphenylphosphine | 1.21 mmol, 0.316 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.21 mmol, 236 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | E-3-(4-hydroxy-phenyl)-acrylic acid methyl ester | 1.21 mmol, 0.215 g | COC(\C=C\C1=CC=C(C=C1)O)=O | C10H10O3
solvent | THF | C1CCOC1 | C4H8O
product | pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC1 | C9H17NO2
